US04863920
2.92 g (10 mmol) of 3-bromo-4,5-dihydro-5-methyl-6H-imidazo[1,5-a][1,4]benzodiazepin-6-one was heated to 80° in a pressure tube for 24 hours with 70 mg of bis-(triphenylphosphine)-palladium(II) dichloride, 30 mg of copper(I) iodide and 2.5 ml (20 mmol) of 3,3-dimethyl-1-butyne in 30 ml of diethylamine and 10 ml of ethylene chloride. The reaction mixture was evaporated, the residue was taken up in methylene chloride and washed with water. The organic solution was dried over magnesium sulphate and filtered through a silica gel pad. By crystallization from hexane there was obtained 3-(3,3-dimethyl-1-butynyl)-4,5-dihydro-5-methyl-6H-imidazo[1,5-a][1,4]benzodiazepin-6-one of melting point 148°-150°.

reactant | 3-bromo-4,5-dihydro-5-methyl-6H-imidazo[1,5-a][1,4]benzodiazepin-6-one | 10 mmol, 2.92 g | BrC=1N=CN2C1CN(C(C1=C2C=CC=C1)=O)C | C12H10BrN3O
reactant | 3,3-dimethyl-1-butyne | 20 mmol, 2.5 ml | CC(C#C)(C)C | C6H10
solvent | diethylamine | 30 ml | C(C)NCC | C4H11N
solvent | ethylene chloride | 10 ml | C(CCl)Cl | C2H4Cl2
catalyst | bis-(triphenylphosphine)-palladium(II) dichloride | 70 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper(I) iodide | 30 mg | [Cu]I
product | 3-(3,3-dimethyl-1-butynyl)-4,5-dihydro-5-methyl-6H-imidazo[1,5-a][1,4]benzodiazepin-6-one | CC(C#CC=1N=CN2C1CN(C(C1=C2C=CC=C1)=O)C)(C)C | C18H19N3O
